US08053440B2
To a solution of 2-bromo-3-pyridinecarboxaldehyde (1.86 g, 10 mmol) and 4′-methoxy phenylacetylene (1.58 g, 12 mmol) in triethylamine (40 mL) were added dichlorobis(triphenylphosphine)palladium (II) (140 mg, 2 mol %) and copper (I) iodide (20 mg, 1 mol %). The reaction mixture was heated at 50° C. under nitrogen for 3 h, then cooled to room temperature. The ammonium salt was removed by filtration. The filtrate was concentrated under reduced pressure leaving 2-(4-methoxy phenylethynyl)pyridine-3-carboxaldehyde (2.35 g, 99%) as a yellow solid. 2-(4-methoxy phenylethynyl)pyridine-3-carboxaldehyde (2.28 g, 9.60 mmol) and tert-butylamine (3.83 g, 60 mmol) were stirred under nitrogen for 24 h at room temperature. The resulting mixture was extracted with ether and dried over anhydrous Na2SO4. Removal of solvent gave the expected imine (2.72 g, 97%), which was used in next step without further purification. To a solution of the above imine (2.7 g, 9.23 mmol) in anhydrous DMF (50 mL) was added copper (I) iodide (0.190 g, 0.1 mmol). The reaction mixture was heated at 100° C. for 4 h, then cooled to room temperature and diluted with ether (200 mL). The organic layer was washed with a saturated aqueous ammonium chloride solution (3×100 mL). The organic layer was dried over anhydrous Na2SO4. Removal of solvent gave the crude compound as a dark-colored solid. Purification by column chromatography (silica gel 230-400 mesh; 30% ethyl acetate in hexanes as eluent) afforded 7-(4-methoxy phenyl)[1,6]naphthridine (0.730 g, 33%) as a brown solid. To a solution of 7-(4-methoxy phenyl)[1,6]naphthridine (0.485 g, 2.05 mmol) in anhydrous N-methyl-2-pyrrolidinone (5 mL) was added thiophenol (0.25 g, 2.26 mmol) and potassium carbonate (0.028 g, 0.205 mmol). The reaction mixture was stirred at 190° C. for 1 h under nitrogen. The reaction mixture was cooled to room temperature. The compound was purified by column chromatography to give 4-(1,6-naphthyridin-7-yl)phenol (0.33 g, 71%) as a pale yellow solid. Selected data: MS (ES) m/z: 223.95, 222.95; MP 219-221° C.

reactant | 2-bromo-3-pyridinecarboxaldehyde | 10 mmol, 1.86 g | BrC1=NC=CC=C1C=O | C6H4BrNO
reactant | 4′-methoxy phenylacetylene | 12 mmol, 1.58 g | COC1=CC=C(C=C1)C#C | C9H8O
solvent | triethylamine | 40 mL | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium | 140 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 20 mg | [Cu]I
product | 2-(4-methoxy phenylethynyl)pyridine-3-carboxaldehyde | 2.35 g, 99% | COC1=CC=C(C=C1)C#CC1=NC=CC=C1C=O | C15H11NO2
